US05102897
A solution of 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid hydrazide (0.70 g, 2.16 mmol) in 96% formic acid (5.6 mL) is stirred overnight. The reaction mixture is concentrated in vacuo, diluted with ethyl acetate and washed once with a saturated solution of sodium bicarbonate, twice with water, and once with brine. Drying the organic phase over magnesium sulfate and evaporation gives an oil which is crystallized from ethyl acetate/hexane to afford 0.68 g (89%) of 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid 2-formylhydrazide, mp 158.0°-159.0° C.

reactant | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid hydrazide | 2.16 mmol, 0.70 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)NN | C17H28N2O2S
reactant | formic acid | 5.6 mL | C(=O)O | CH2O2
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid 2-formylhydrazide | 0.68 g, 89% | C(=O)NNC(CCSC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C18H28N2O3S
